US04652405
A mixture of 0.520 g. (0.0010 mole) of [1α,3β,24R]-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate, 0.45 g. of sodium bicarbonate, 0.192 g. (0.00066 mole) of 1,3-dibromo-5,5-dimethylhydantoin and 25 ml. of hexane was heated at reflux (80° C.) for 1 hr and cooled. The mixture was filtered and the solids were triturated with hexane and filtered. The filtrates were evaporated to dryness to yield [1α,3β,7ξ,24R]-7-bromo-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate.

reactant | [1α,3β,24R]-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate | 0.0010 mole | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)(C)O)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H49FO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.00066 mole | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | hexane | CCCCCC | C6H14
product | [1α,3β,7ξ,24R]-7-bromo-24-fluorocholest-5-en-1,3,25-triol 1,3-diacetate | C(C)(=O)O[C@H]1C[C@@H](CC2=CC([C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)(C)O)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)Br)OC(C)=O | C31H48BrFO5
